US08541411B2
c) 4-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole
A mixture of crude 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-ol (200 mg), imidazole (73 mg) and TBDPSCl (162 mg) in dry DCM (30 mL) was stirred at room temperature for 1 h. LCMS analysis showed desired product so the solvent was removed in-vacuo. The residue was purified by silica gel chromatography eluted with EtOAc:petroleum ether=1:2 to afford the TBDP ether desired product as a white solid (260 mg, 79%). 1H NMR (300 MHz, CDCl3) δ ppm 1.24 (s, 9H), 2.53-2.56 (m, 7H), 3.55 (t, 4H, J=4.8 Hz), 5.69 (s, 2H), 5.92 (d, 1H, J=1.8 Hz), 6.12 (d, 1H, J=1.8 Hz), 6.55 (d, 1H, J=7.5 Hz), 7.25-7.45 (m, 7H), 7.56-7.67 (m, 2H), 7.78 (d, 1H, J=8.7 Hz), 7.84-7.87 (m 4H), 7.94 (d, 1H, J=7.5 Hz), 8.06 (d, 1H, J=8.7 Hz); LC-MS: m/e=612 [M+1]+.

reactant | 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-ol | 200 mg | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2O)N2CCOCC2 | C23H23N3O2
reactant | imidazole | 73 mg | N1C=NC=C1 | C3H4N2
reactant | TBDPSCl | 162 mg | CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)Cl | C16H19ClSi
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole | CC(C)(C)[Si](OC1=CC(=CC=2N(C(=NC21)C)CC2=CC=CC1=CC=CC=C21)N2CCOCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H41N3O2Si
